US04659716
(1-Methyl-4-piperidinyl)[3-[2-(3-fluorophenyl)ethyl]-2-pyridinyl]methanone
To a solution of 3-[2-(3-fluorophenyl)ethyl]-2-pyridine carbonitrile (28.0 g, 0.123 mole) in 150 mL of dry THF is added 92 mL (1.48 moles/liter, 0.136 mole) of N-methylpiperidyl magnesium chloride over 10 minutes maintaining the temperature of 45°-50° C. The reaction is maintained at 40° C. to 50° C. for another 10 minutes and at ambient temperature for 45 minutes. The reaction is quenched to below pH 2 and aqueous hydrochloric acid and the resulting solution is stirred at 25° C. for 1 hour. The pH of the solution is adjusted to about 8, the product is extracted with ethylacetate, and the solution is concentrated to a residue. Following purification by silica gel chromatography, 38.3 g of product is obtained as a brown oil.

reactant | 3-[2-(3-fluorophenyl)ethyl]-2-pyridine carbonitrile | 0.123 mole, 28.0 g | FC=1C=C(C=CC1)CCC=1C(=NC=CC1)C#N | C14H11FN2
reactant | N-methylpiperidyl magnesium chloride | 0.136 mole, 1.48 moles/liter, 92 mL | CN1C(CCCC1)[Mg]Cl
reactant | THF | 150 mL | C1CCOC1 | C4H8O
product | (1-Methyl-4-piperidinyl)[3-[2-(3-fluorophenyl)ethyl]-2-pyridinyl]methanone | 38.3 g | CN1CCC(CC1)C(=O)C1=NC=CC=C1CCC1=CC(=CC=C1)F | C20H23FN2O
